US09163021B2
[1-Isopropyl-5-(trifluoromethyl)-1H-pyrazol-4-yl]acetonitrile
Tetrabutyl ammonium bromide (7.95 gm, 24.7 mmol) was added to 4-(chloromethyl)-1-isopropyl-5-(trifluoromethyl)-1H-pyrazole (7 g, 31 mmol) in dioxane (75 mL) and water (75 mL) and the mixture was stirred for 10 minutes. Potassium cyanide (7.42 g, 114 mmol) was added and the mixture was stirred for 16 hours at room temperature. The mixture was diluted with EtOAc (100 mL) then the organic phase was washed with water (100 mL), brine (100 mL) and dried over sodium sulphate. The filtrate was evaporated in vacuo and purified by silica gel column chromatography eluting with hexane:EtOAc 90:10 to afford the title compound as a white solid (100%, 7.00 g).

reactant | 4-(chloromethyl)-1-isopropyl-5-(trifluoromethyl)-1H-pyrazole | 31 mmol, 7 g | ClCC=1C=NN(C1C(F)(F)F)C(C)C | C8H10ClF3N2
reactant | Potassium cyanide | 114 mmol, 7.42 g | [C-]#N.[K+]
catalyst | Tetrabutyl ammonium bromide | 24.7 mmol, 7.95 gm | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
solvent | water | 75 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | [1-Isopropyl-5-(trifluoromethyl)-1H-pyrazol-4-yl]acetonitrile | 7.00 g, 100% | C(C)(C)N1N=CC(=C1C(F)(F)F)CC#N | C9H10F3N3
